US07547698B2
SYNTHESIS OF 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]IMIDAZO[1,2-B]PYRIDAZINE-2-CARBOXYLIC ACID BUTYLAMIDE
Following the procedure as described in Example 1, making variations only as required to use n-butylamine in place of isoamylamine to react with 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]imidazo[1,2-b]pyridazine-2-carboxylic acid ethyl ester, the title compound was obtained as a white solid in 72% yield (0.077 g). m.p. 187-189° C. 1H NMR (300 MHz, CDCl3) δ 8.1 (s, 1H), 7.75-7.66 (m, 2H), 7.65-7.5 (m, 2H), 7.48-7.38 (m, 1H), 7.37-7.3 (m, 1H), 6.92 (d, J=9.6 Hz, 1H), 4.05-3.94 (m, 1H), 3.93-3.82 (m, 1H), 3.69-3.54 (m, 2H), 3.5-3.38 (m, 4H), 3.35-3.28 (m, 2H), 1.65-1.53 (m 2H), 1.47-1.33 (m, 2H), 0.92 (t, J=7.5 Hz, 3H). 13C NMR (75 MHz, CDCl3) δ 167.5, 161.9, 154.9, 137.7, 135.3, 134.2, 132.4, 129.5, 127.2, 126.8, 126.7, 126.2, 125.4, 121.8, 118.3, 112.3, 46.2, 46.1, 45.6, 41.1, 38.9, 31.7, 20.1, 13.8. MS (ES+) m/z 475.2 (M+1).

reactant | n-butylamine | C(CCC)N | C4H11N
reactant | 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]imidazo[1,2-b]pyridazine-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C2N(N=C(C=C2)N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)C1 | C21H20F3N5O3
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]IMIDAZO[1,2-B]PYRIDAZINE-2-CARBOXYLIC ACID BUTYLAMIDE | 72% yield | C(CCC)NC(=O)C=1N=C2N(N=C(C=C2)N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)C1 | C23H25F3N6O2
